US05208333
Preparation of (2R)-1-(butyryloxy)-3-(1-naphthyloxy)-2-propanol
To a solution of 144 g (1 mol) of 1-naphthol and 7.4 g (0.02 mol) of tetrabutylammonium iodide in 200 ml of toluene was added 144 g (1 mol) of (R)-glycidyl butyrate over a period of 15 min at a temperature of 120° C., and the mixture was kept at this temperature for a further 4 h. Conventional subsequent treatment of the reaction mixture gave the required compound as an oil, yield about 75%.

reactant | 1-naphthol | 1 mol, 144 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | (R)-glycidyl butyrate | 1 mol, 144 g | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
catalyst | tetrabutylammonium iodide | 0.02 mol, 7.4 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (2R)-1-(butyryloxy)-3-(1-naphthyloxy)-2-propanol | yield about 75% | C(CCC)(=O)OC[C@@H](COC1=CC=CC2=CC=CC=C12)O | C17H20O4
